US06057311
e. 1-benzyl-4-(3-methylphenyl)carbamyl-2,7-dioxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine
Ozone was bubbled through a solution of 9-benzyl-2-(3-methylphenyl)carbamyl-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole (2.98 g, 7.54 mmol) in methanol (40 ml) at -78° C. until a blue colour persisted. Nitrogen was then bubbled through the solution until clear, followed by the addition of dimethyl sulphide (5.0 ml, 68.1 mmol). The solution was allowed to warm to room temperature and stirring continued for a further 2 hours, followed by evaporation to dryness. The crude product was purified by chromatography on silica gel with ethyl acetate-hexane (3:2) as eluant. (2.0 g, 62%).

reactant | Ozone | O=[O+][O-] | O3
reactant | 9-benzyl-2-(3-methylphenyl)carbamyl-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | 7.54 mmol, 2.98 g | C(C1=CC=CC=C1)N1C2=C(C3=CC=CC=C13)CCN(C2)C(NC2=CC(=CC=C2)C)=O | C26H25N3O
reactant | dimethyl sulphide | 68.1 mmol, 5.0 ml | CSC | C2H6S
reactant | methanol | 40 ml | CO | CH4O
product | 1-benzyl-4-(3-methylphenyl)carbamyl-2,7-dioxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine | C(C1=CC=CC=C1)N1C(CN(CCC(C2=C1C=CC=C2)=O)C(NC2=CC(=CC=C2)C)=O)=O | C26H25N3O3
